US07566803B2
A. 3-(3-Chloro-4-hydroxyphenyl)-3-pentanol
To a solution of methyl 3-chloro-4-hydroxybenzoate (25.0 g, 133 mmol) in THF (250 mL) is added dropwise 1.0 M ethylmagnesium bromide/THF (442 mL, 442 mmol) at a rate maintaining the temperature below 27° C. The brownish grey reaction is stirred for 72 h. The reaction mixture is cooled in an ice bath and quenched with satd ammonium chloride (1 ml portions) until evolution of ethane subsides. Additional satd NH4Cl solution is added (total of 50 mL) and the mixture is concentrated to remove most of the THF. The residue is added to water and ether, filtered through diatomaceous earth, and partitioned. The organic layer is washed with brine (3×), MgSO4 dried, and concentrated to give the title compound (28.6 g, 99%).

reactant | methyl 3-chloro-4-hydroxybenzoate | 133 mmol, 25.0 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | ethylmagnesium bromide THF | 442 mmol, 1.0 M, 442 mL | C(C)[Mg]Br.C1CCOC1
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 3-(3-Chloro-4-hydroxyphenyl)-3-pentanol | 28.6 g, 99% | ClC=1C=C(C=CC1O)C(CC)(CC)O | C11H15ClO2
